US08309546B2
5-{8-[(3S)-3-Ethyl-4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine
Methanesulfonyl chloride (0.022 ml, 0.28 mmol) was added dropwise to a methylene chloride solution (6 ml) of 5-{8-[(3S)-3-ethylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine (107 mg, 0.22 mmol) and triethylamine (0.061 ml, 0.44 mmol) with ice cooling and the resulting mixture was stirred at the same temperature for 2 hours. The resulting mixture was partitioned with ethyl acetate and saturated aqueous ammonium chloride solution and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (chloroform:methanol=95:5) to give the title compound (86 mg) as a pale yellow solid.

reactant | Methanesulfonyl chloride | 0.28 mmol, 0.022 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-{8-[(3S)-3-ethylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine | 0.22 mmol, 107 mg | C(C)[C@H]1CN(CCN1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C21H27F3N10O
reactant | triethylamine | 0.44 mmol, 0.061 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 5-{8-[(3S)-3-Ethyl-4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine | 86 mg | C(C)[C@H]1CN(CCN1S(=O)(=O)C)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C22H29F3N10O3S
